US05627197
0.8 g of 3-(4-amidinophenyl)-5-(4-ethoxycarbonyl-4-ethoxycarbonylmethylpiperidinomethyl)-oxazolidin-2-one [obtainable accord to Ex. 9] are suspended in 60 ml of methanol, treated with 10 ml of 2N of NaOH solution and stirred at room temperature for 4 hours. After removal of the solvent, the residue is taken up in water, the pH is adjusted to 3 by addition of dilute HCl and the reaction mixture is filtered through an ion exchanger. After extraction with ethyl acetate the filtrate is dried over MgSO4. After removal of the solvent and subsequent freeze-drying, 3-(4-amidinophenyl)-5-(4-carboxy-4-carboxymethylpiperidinomethyl)oxazolidin-2-one is obtained.

reactant | 3-(4-amidinophenyl)-5-(4-ethoxycarbonyl-4-ethoxycarbonylmethylpiperidinomethyl)-oxazolidin-2-one | 0.8 g | C(N)(=N)C1=CC=C(C=C1)N1C(OC(C1)CN1CCC(CC1)(CC(=O)OCC)C(=O)OCC)=O | C23H32N4O6
reactant | NaOH | 2N, 10 ml | [OH-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
product | 3-(4-amidinophenyl)-5-(4-carboxy-4-carboxymethylpiperidinomethyl)oxazolidin-2-one | C(N)(=N)C1=CC=C(C=C1)N1C(OC(C1)CN1CCC(CC1)(CC(=O)O)C(=O)O)=O | C19H24N4O6
